US09193935B2
2.11: ((4E)-3,4-Dimethyl-5-(2,6,6-trimethylcyclohex-2-enyl)penta-2,4-dienyl)benzene
Starting from phenethyltriphenylphosphonium bromide (2.80 g, 6.26 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 3.9 mL, 6.26 mmol, 1.0 equiv.) and (E)-3-methyl-4-(2,6,6-trimethylcyclohex-2-enyl)but-3-en-2-one (1.94 g, 9.39 mmol, 1.5 equiv.), 0.36 g (20%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 995:5).

reactant | phenethyltriphenylphosphonium bromide | 6.26 mmol, 2.80 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 6.26 mmol, 1.6 M, 3.9 mL, 1.0 equiv. | [Li]CCCC
reactant | (E)-3-methyl-4-(2,6,6-trimethylcyclohex-2-enyl)but-3-en-2-one | 9.39 mmol, 1.94 g, 1.5 equiv. | C/C(/C(C)=O)=C\C1C(=CCCC1(C)C)C | C14H22O
product | ((4E)-3,4-Dimethyl-5-(2,6,6-trimethylcyclohex-2-enyl)penta-2,4-dienyl)benzene | 0.36 g, 20% | CC(=CCC1=CC=CC=C1)\C(=C\C1C(=CCCC1(C)C)C)\C | C22H30
